US04284634
A mixture of dimethyl 2-methyl-4-(2-nitrophenyl)-6-formyl-1,4-dihydropyridine-3,5-dicarboxylate (3.6 g), hydroxylamine hydrochloride (764 mg) and sodium acetate (1.06 g) in acetic acid (20 ml) was stirred at room temperature for 45 minutes to form dimethyl 2-methyl-4-(2-nitrophenyl)-6-hydroxyiminomethyl-1,4-dihydropyridine-3,5-dicarboxylate. To the reaction mixture was added acetic anhydride (3.37 g) and the mixture was stirred at room temperature for 15 minutes and then heated at 100° C. for 3 hours with stirring. After removal of the acetic acid, the residue was adjusted to pH 7.5 with an aqueous sodium bicarbonate solution and extracted with ethyl acetate. The extract was washed twice with water and saturated aqueous sodium chloride solution, dried over magnesium sulfate and evaporated to dryness under reduced pressure. The resultant oil (3.80 g) was chromatographed on a column of silica-gel (110 g) and eluted with a mixture of benzene and ethyl acetate (9:1, v/v) to give crystals (2.05 g), which were recrystallized from a mixture of ethyl acetate (12 ml) and n-hexane (6 ml) to give yellow granules of dimethyl 2-methyl-4-(2-nitrophenyl)-6-cyano-1,4-dihydropyridine-3,5-dicarboxylate (1.19 g), mp 170.5° to 171.5° C.

reactant | dimethyl 2-methyl-4-(2-nitrophenyl)-6-formyl-1,4-dihydropyridine-3,5-dicarboxylate | 3.6 g | CC=1NC(=C(C(C1C(=O)OC)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OC)C=O | C17H16N2O7
reactant | hydroxylamine hydrochloride | 764 mg | Cl.NO
reactant | sodium acetate | 1.06 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | dimethyl 2-methyl-4-(2-nitrophenyl)-6-hydroxyiminomethyl-1,4-dihydropyridine-3,5-dicarboxylate | CC=1NC(=C(C(C1C(=O)OC)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OC)C=NO | C17H17N3O7
